US05498609
To a solution of 7-chloro-5-methylamino-1-[5-(2-methylbenzoylamino)thenoyl]-2,3,4,5-tetrahydro-1H-benzazepine (0.5 g) in methanol (10 ml) are added 37% formaldehyde (0.8 ml) and sodium cyanoborohydride (0.1 g), and further thereto is added dropwise acetic acid (0.6 ml) at a temperature below 10° C. The mixture is stirred at room temperature for one hour, and poured into ice-water. The mixture is made basic with potassium carbonate, and extracted with dichloromethane. The extract is washed with water, dried over magnesium sulfate, and evaporated under reduced pressure to remove the solvent. The residue is purified by silica gel column chromatography to give 7-chloro-5-dimethylamino-1-[5-(2-methylbenzoylamino)thenoyl]-2,3,4,5-tetrahydro-1H-benzazepine (0.41 g) as colorless amorphous.

reactant | 7-chloro-5-methylamino-1-[5-(2-methylbenzoylamino)thenoyl]-2,3,4,5-tetrahydro-1H-benzazepine | 0.5 g | ClC=1C=CC2=C(C(CCCN2C(C2=CC=C(S2)NC(C2=C(C=CC=C2)C)=O)=O)NC)C1 | C24H24ClN3O2S
reactant | formaldehyde | 0.8 ml | C=O | CH2O
reactant | sodium cyanoborohydride | 0.1 g | C(#N)[BH3-].[Na+]
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 10 ml | CO | CH4O
solvent | acetic acid | 0.6 ml | C(C)(=O)O | C2H4O2
product | 7-chloro-5-dimethylamino-1-[5-(2-methylbenzoylamino)thenoyl]-2,3,4,5-tetrahydro-1H-benzazepine | 0.41 g | ClC=1C=CC2=C(C(CCCN2C(C2=CC=C(S2)NC(C2=C(C=CC=C2)C)=O)=O)N(C)C)C1 | C25H26ClN3O2S
